US09085583B2
To a mixture of tert-butyl 2-methyl-1-(3-oxobutan-2-yl)-1H-indole-3-carboxylate (1.1 g, 3.6 mmol) in dichloromethane (4 mL) were added 4-methylbenzene-1-sulfonyl chloride (1.3 g, 7.2 mmol), and 1,4-diazabicyclo[2.2.2]octane (1.2 g, 10.8 mmol) at 0° C. The reaction mixture was stirred at 0° C. for 3 hours. The reaction mixture was added to water (30 mL). The aqueous layers was extracted with dichloromethane (10 mL×3), The combined organic layers was dried over sodium sulfate and concentrate to afford tert-butyl 2-methyl-1-(3-(tosyloxy)butan-2-yl)-1H-indole-3-carboxylate (1.6 g, yield: 96%) as a yellow oil. LRMS (M+H+) m/z: calcd 457.19. found 458.

reactant | tert-butyl 2-methyl-1-(3-oxobutan-2-yl)-1H-indole-3-carboxylate | 3.6 mmol, 1.1 g | CC=1N(C2=CC=CC=C2C1C(=O)OC(C)(C)C)C(C)C(C)=O | C18H23NO3
reactant | 4-methylbenzene-1-sulfonyl chloride | 7.2 mmol, 1.3 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | 1,4-diazabicyclo[2.2.2]octane | 10.8 mmol, 1.2 g | N12CCN(CC1)CC2 | C6H12N2
reactant | water | 30 mL | O | H2O
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | tert-butyl 2-methyl-1-(3-(tosyloxy)butan-2-yl)-1H-indole-3-carboxylate | 1.6 g, yield: 96% | CC=1N(C2=CC=CC=C2C1C(=O)OC(C)(C)C)C(C)C(C)OS(=O)(=O)C1=CC=C(C)C=C1 | C25H31NO5S
